US04761486
10.0 g (31 mmol) of 2-(1-ethoxyiminobutyl-3-hydroxy-5-(tetrahydrothiopyran-3-yl)cyclohex-2-en-1-one were dissolved in 50 ml of tetrahydrofuran, and 4.7 ml of triethylamine were added, followed by 2.3 ml of thionyl chloride. After 3 hours the resulting precipitate was filtered off with suction, and washed with tetrahydrofuran, and the product-containing filtrate was concentrated. 3-Chloro-2-(1-ethoxyiminobutyl)-5-(tetrahydrothiopyran-3-yl)cyclohex-2-en-1-one was obtained as an oil (compound no. 90).

reactant | 1-ethoxyiminobutyl-3-hydroxy-5-(tetrahydrothiopyran-3-yl)cyclohex-2-en-1-one | C(C)ON=C(CCC)C=1C(CC(CC1O)C1CSCCC1)=O | C17H27NO3S
reactant | triethylamine | 4.7 ml | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 2.3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-Chloro-2-(1-ethoxyiminobutyl)-5-(tetrahydrothiopyran-3-yl)cyclohex-2-en-1-one | ClC1=C(C(CC(C1)C1CSCCC1)=O)C(CCC)=NOCC | C17H26ClNO2S
